US07652054B2
(a) N-tert-Butylthiophene-2-sulfonamide
Thiophene-2-sulfonyl chloride (15 g, 0.082 mol) was dissolved in CHCl3 (200 mL) under N2 atmosphere and then cooled to 0° C. tert-Butylamine (25.9 mL, 0.246 mol) dissolved in CHCl3 (50 mL) was then added dropwise to the reaction mixture. The reaction mixture was stirred for 1 h at room temperature and then at reflux for 10 min. Toluene (700 mL) was added and the organic phase was washed with water (3×50 mL), dried, and concentrated in vacuo. The sub-title product was used without further purification in the next step.

reactant | Thiophene-2-sulfonyl chloride | 0.082 mol, 15 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
reactant | tert-Butylamine | 0.246 mol, 25.9 mL | C(C)(C)(C)N | C4H11N
reactant | Toluene | 700 mL | C1(=CC=CC=C1)C | C7H8
solvent | CHCl3 | 200 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | N-tert-Butylthiophene-2-sulfonamide | C(C)(C)(C)NS(=O)(=O)C=1SC=CC1 | C8H13NO2S2
